US09085555B2
A. (S)-4-Methylene-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester
To (S)-1-(tert-butoxycarbonyl)-4-methylenepyrrolidine-2-carboxylic acid (4 g, 17.60 mmol) dissolved in DMF (100 mL) at 0° C. were added benzyl bromide (2.51 mL, 21.12 mmol) and cesium carbonate (6.31 g, 19.36 mmol). The solution was stirred 16 h at RT then was concentrated. Purification by flash column chromatography on silica gel (c-hexane/EtOAc 1:1). MS (UPLC/MS): 218 [MH−tBu]+, tR (HPLC conditions f): 2.44 min.

reactant | (S)-1-(tert-butoxycarbonyl)-4-methylenepyrrolidine-2-carboxylic acid | 17.60 mmol, 4 g | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=C)C(=O)O | C11H17NO4
reactant | benzyl bromide | 21.12 mmol, 2.51 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | cesium carbonate | 19.36 mmol, 6.31 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (S)-4-Methylene-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=C)C(=O)OCC1=CC=CC=C1 | C18H23NO4
